US06590118B1
100% acetic acid (250 μl) and palladium on activated charcoal (10% Pd, 40 mg) was added to a solution of 4-[2-(3-nitrobenzoylamino)phenoxy]phthalic acid (130 mg, 0.308 mmol) in methanol/water (10:1) (11 ml). The mixture was hydrogenated in a Parr apparatus at 276 kPa (40 psi) for 20 hours. The mixture was filtered and evaporated to dryness in vacuo to give 4-[2-(3-aminobenzoylamino)phenoxy]phthalic acid as an oil (yield: 114 mg (95%)). LC-MS: m/e 393 (MH+), 375 (MH+-H2O).

reactant | acetic acid | 250 μl | C(C)(=O)O | C2H4O2
reactant | 4-[2-(3-nitrobenzoylamino)phenoxy]phthalic acid | 0.308 mmol, 130 mg | [N+](=O)([O-])C=1C=C(C(=O)NC2=C(OC=3C=C(C(C(=O)O)=CC3)C(=O)O)C=CC=C2)C=CC1 | C21H14N2O8
catalyst | palladium on activated charcoal | 40 mg | [Pd] | Pd
solvent | methanol water | 11 ml | CO.O
product | 4-[2-(3-aminobenzoylamino)phenoxy]phthalic acid | NC=1C=C(C(=O)NC2=C(OC=3C=C(C(C(=O)O)=CC3)C(=O)O)C=CC=C2)C=CC1 | C21H16N2O6
